US04358440
Production of Z-Tyr-Thr-Lys(Boc)-Gln-Ser-NHNH2
In 270 ml of MeOH were dissolved 3.93 g of Z-Tyr-Thr-Lys(Boc)-Gln-Ser-OMe, and 2.5 ml of NH2NH2.H2O was added to the solution, followed by allowing the mixture to stand at room temperature for 48 hours. The resulting crystals were recovered by filtration and recrystallized from MeOH. Yield 3.4 g (86.5%); m.p. 204°-205° C. (decomp.); [α]D22 -9.0° (c=0.5, DMF); Rf2 =0.36.

reactant | Z-Tyr-Thr-Lys(Boc)-Gln-Ser-OMe | 3.93 g | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H]([C@H](O)C)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CO)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C41H59N7O14
reactant | NH2NH2.H2O | 2.5 ml | NN.O
solvent | MeOH | 270 ml | CO | CH4O
product | Z-Tyr-Thr-Lys(Boc)-Gln-Ser-NHNH2 | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H]([C@H](O)C)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CO)C(=O)NN)C(=O)OCC1=CC=CC=C1 | C40H59N9O13
